US07838498B2
Preparation of (2S,3R,4R,5S,6R)-2-(4-chloro-5-(4-ethoxybenzyl)-2-((prop-2-ynyloxy)methyl)phenyl)-6-(hydroxymethyl)tetrahydro-2H-pyran-3,4,5-triol (Compound CC)
To a stirred solution of (2R,3R,4R,5S,6S)-2-(acetoxymethyl)-6-(4-chloro-5-(4-ethoxybenzyl)-2-((prop-2-ynyloxy)methyl)phenyl)tetrahydro-2H-pyran-3,4,5-triyl triacetate (prepared using methods analogous to those in Example 1 and Example 5 above, 251 mg, 0.39 mmol) in THF:MeOH:H2O (2:3:1, 6.0 mL) at 15° C., was added LiOH—H2O (19.7 mg, 0.47 mmol). After stirring for 12 h at room temperature, the reaction was complete, as indicated by HPLC. The reaction mixture was concentrated and the residue was dissolved in 20 mL of ethyl acetate. The organic layer was washed with brine (20 mL), 5% KHSO4 in brine (20 mL), dried over anhydrous sodium sulfate, evaporated, and the residue was purified by preparative TLC (PE:EtOAc:MeOH=8:80:1, Rf=0.45) to obtain 156 mg of title compound as a white solid (yield 84%; purity 99.2%, as determined by HPLC). 1H-NMR (CD3OD, 400 MHz) δ 7.48 (s, 1H), 7.42 (s, 1H), 7.11 (s, 4H), 4.86 (d, J=12.4 Hz, 1H), 4.60 (d, J=12.4 Hz, 1H), 4.52 (d, J=9.2 Hz, 1H), 4.20 (s, 2H), 4.12 (d, J=14.8 Hz, 1H), 4.06 (d, J=14.8 Hz, 1H), 3.98 (q, J=6.8 Hz, 2H), 3.86 (d, J=12.4 Hz, 1H), 3.70-3.66 (m, 1H), 3.52-3.41 (m, 4H), 2.63 (s, 1H), 1.36 (t, J=6.8 Hz, 3H); LC-MS (m/z) 477 [(M+1)+], 521 [(M+45)−].

reactant | (2R,3R,4R,5S,6S)-2-(acetoxymethyl)-6-(4-chloro-5-(4-ethoxybenzyl)-2-((prop-2-ynyloxy)methyl)phenyl)tetrahydro-2H-pyran-3,4,5-triyl triacetate | C(C)(=O)O[C@@H]1[C@H](O[C@H]([C@@H]([C@H]1OC(C)=O)OC(C)=O)C1=C(C=C(C(=C1)CC1=CC=C(C=C1)OCC)Cl)COCC#C)COC(C)=O | C33H37ClO11
reactant | LiOH—H2O | 0.47 mmol, 19.7 mg | O[Li].O
solvent | THF MeOH H2O | 6.0 mL | C1CCOC1.CO.O
product | (2S,3R,4R,5S,6R)-2-(4-chloro-5-(4-ethoxybenzyl)-2-((prop-2-ynyloxy)methyl)phenyl)-6-(hydroxymethyl)tetrahydro-2H-pyran-3,4,5-triol | 156 mg, yield 84% | ClC1=CC(=C(C=C1CC1=CC=C(C=C1)OCC)[C@@H]1O[C@@H]([C@H]([C@@H]([C@H]1O)O)O)CO)COCC#C | C25H29ClO7
